* c:\fossee\esim\library\subcircuitlibrary\ne5517\ne5517.cir

.include PNP.lib
.include D.lib
.include NPN.lib
q3 net-_q2-pad1_ net-_d2-pad2_ net-_d11-pad1_ Q2N2907A
q5 net-_q10-pad2_ net-_q2-pad1_ net-_d2-pad2_ Q2N2907A
d2 net-_d11-pad1_ net-_d2-pad2_ 1N4148
q2 net-_q2-pad1_ net-_d7-pad2_ net-_q2-pad3_ Q2N2222
q6 net-_q6-pad1_ net-_d8-pad2_ net-_q2-pad3_ Q2N2222
q4 net-_q2-pad3_ net-_q1-pad1_ net-_d1-pad1_ Q2N2222
q1 net-_q1-pad1_ net-_d1-pad1_ net-_d1-pad2_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q7 net-_q6-pad1_ net-_d3-pad2_ net-_d11-pad1_ Q2N2907A
q9 net-_q10-pad1_ net-_q6-pad1_ net-_d3-pad2_ Q2N2907A
d3 net-_d11-pad1_ net-_d3-pad2_ 1N4148
q10 net-_q10-pad1_ net-_q10-pad2_ net-_d4-pad1_ Q2N2222
q8 net-_q10-pad2_ net-_d4-pad1_ net-_d1-pad2_ Q2N2222
d4 net-_d4-pad1_ net-_d1-pad2_ 1N4148
q11 net-_q11-pad1_ net-_q11-pad1_ net-_d11-pad1_ Q2N2907A
q13 net-_d5-pad1_ net-_q11-pad1_ net-_d11-pad1_ Q2N2907A
q12 net-_q11-pad1_ net-_d1-pad1_ net-_q12-pad3_ Q2N2222
q14 net-_q11-pad1_ net-_d5-pad1_ net-_q12-pad3_ Q2N2222
r6  net-_q12-pad3_ net-_d1-pad2_ 1k
d5 net-_d5-pad1_ net-_d5-pad2_ 1N4148
d6 net-_d5-pad2_ net-_d1-pad2_ 1N4148
q16 net-_q15-pad3_ net-_d5-pad2_ net-_d1-pad2_ Q2N2222
q15 net-_d11-pad1_ net-_q15-pad2_ net-_q15-pad3_ Q2N2222
q17 net-_d11-pad1_ net-_q15-pad3_ net-_q17-pad3_ Q2N2222
d7 net-_d7-pad1_ net-_d7-pad2_ 1N4148
d8 net-_d7-pad1_ net-_d8-pad2_ 1N4148
* u1  net-_q1-pad1_ net-_d7-pad1_ net-_d8-pad2_ net-_d7-pad2_ net-_q10-pad1_ net-_d1-pad2_ net-_q15-pad2_ net-_q17-pad3_ net-_q34-pad3_ net-_q32-pad2_ net-_d11-pad1_ net-_q26-pad1_ net-_d9-pad2_ net-_d12-pad2_ net-_d12-pad1_ net-_q18-pad1_ port
q20 net-_q19-pad1_ net-_d11-pad2_ net-_d11-pad1_ Q2N2907A
q22 net-_q22-pad1_ net-_q19-pad1_ net-_d11-pad2_ Q2N2907A
d11 net-_d11-pad1_ net-_d11-pad2_ 1N4148
q19 net-_q19-pad1_ net-_d9-pad2_ net-_q19-pad3_ Q2N2222
q23 net-_q23-pad1_ net-_d12-pad2_ net-_q19-pad3_ Q2N2222
q21 net-_q19-pad3_ net-_q18-pad1_ net-_d10-pad1_ Q2N2222
q18 net-_q18-pad1_ net-_d10-pad1_ net-_d1-pad2_ Q2N2222
d10 net-_d10-pad1_ net-_d1-pad2_ 1N4148
q24 net-_q23-pad1_ net-_d13-pad2_ net-_d11-pad1_ Q2N2907A
q26 net-_q26-pad1_ net-_q23-pad1_ net-_d13-pad2_ Q2N2907A
d13 net-_d11-pad1_ net-_d13-pad2_ 1N4148
q27 net-_q26-pad1_ net-_q22-pad1_ net-_d14-pad1_ Q2N2222
q25 net-_q22-pad1_ net-_d14-pad1_ net-_d1-pad2_ Q2N2222
d14 net-_d14-pad1_ net-_d1-pad2_ 1N4148
q28 net-_q28-pad1_ net-_q28-pad1_ net-_d11-pad1_ Q2N2907A
q30 net-_d15-pad1_ net-_q28-pad1_ net-_d11-pad1_ Q2N2907A
q29 net-_q28-pad1_ net-_d10-pad1_ net-_q29-pad3_ Q2N2222
q31 net-_q28-pad1_ net-_d15-pad1_ net-_q29-pad3_ Q2N2222
r1  net-_q29-pad3_ net-_d1-pad2_ 1k
d15 net-_d15-pad1_ net-_d15-pad2_ 1N4148
d16 net-_d15-pad2_ net-_d1-pad2_ 1N4148
q33 net-_q32-pad3_ net-_d15-pad2_ net-_d1-pad2_ Q2N2222
q32 net-_d11-pad1_ net-_q32-pad2_ net-_q32-pad3_ Q2N2222
q34 net-_d11-pad1_ net-_q32-pad3_ net-_q34-pad3_ Q2N2222
d9 net-_d12-pad1_ net-_d9-pad2_ 1N4148
d12 net-_d12-pad1_ net-_d12-pad2_ 1N4148
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
